US07514419B2
To a solution of diisopropyl amine (12.4 mL, 88.2 mmol) in THF (50 mL) at −78° C. was added n-butyllithium (35.3 mL, 88.2 mmol). The reaction mixture was stirred at −78° C. for 30 min, at which time ethyl acetate was added (16.1 mL, 163.2 mmol). After 1 h, 3-chlorobenzaldehyde was added and the reaction mixture was allowed to warm to room temperature over 2 h. The reaction mixture was quenched with aqueous saturated NH4Cl (20 mL) and extracted with ethyl acetate (2×20 mL). The organic layer was rinsed with water (20 mL) and brine (20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to afford yellow oil. The crude product was purified by column chromatography on silica gel, eluted with ethyl acetate-hexanes (1:4) to afford ethyl 3-(3-chloro-phenyl)-3-hydroxy-propionate as a yellow oil (10.0 g, 99.0%). 1H NMR (400 MHz, d-DMSO): δ 7.43-7.30 (m, 4H), 5.66 (d, 1H), 5.01-4.95 (q, 1H), 4.14-4.04 (m, 2H), 2.71-2.58 (m, 2H), 1.24-1.17 (t, 3H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (1:3); Rf=0.50.

reactant | diisopropyl amine | 88.2 mmol, 12.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 88.2 mmol, 35.3 mL | C(CCC)[Li]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3-chloro-phenyl)-3-hydroxy-propionate | 10.0 g, 99.0% | ClC=1C=C(C=CC1)C(CC(=O)OCC)O | C11H13ClO3
